US07385085B2
To a sealed tube was added a solution of 5-(3-tert-butyl-phenyl)-2-(toluene-4-sulfonyl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamine (0.41 g, 1.0 mmol) in isopropyl alcohol followed by 2-[2-(3,5-difluoro-phenyl)-ethyl]-oxirane (0.18 g, 1.0 mmol). The reaction was heated at 50° C. overnight and no product was formed. After heating at 100° C. for an additional 3.5 h the reaction was complete. The reaction mixture was concentrated and the crude product was purified by flash chromatography, eluting with 3% methanol in CHCl3 to afford 0.25 g (0.41 mmol, 42%) of 1-[5-(3-tert-butyl-phenyl)-2-(toluene-4-sulfonyl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamino]-4-(3,5-difluoro-phenyl)-butan-2-ol: retention time (min)=2.15, method [1]. MS (ESI) 608.4 (M+H).

reactant | 5-(3-tert-butyl-phenyl)-2-(toluene-4-sulfonyl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamine | 1.0 mmol, 0.41 g | C(C)(C)(C)C=1C=C(C=CC1)C1(CC2=CN(N=C2CC1)S(=O)(=O)C1=CC=C(C=C1)C)N | C24H29N3O2S
reactant | 2-[2-(3,5-difluoro-phenyl)-ethyl]-oxirane | 1.0 mmol, 0.18 g | FC=1C=C(C=C(C1)F)CCC1OC1 | C10H10F2O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1-[5-(3-tert-butyl-phenyl)-2-(toluene-4-sulfonyl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamino]-4-(3,5-difluoro-phenyl)-butan-2-ol | 0.41 mmol, 0.25 g, 42% | C(C)(C)(C)C=1C=C(C=CC1)C1(CC2=CN(N=C2CC1)S(=O)(=O)C1=CC=C(C=C1)C)NCC(CCC1=CC(=CC(=C1)F)F)O | C34H39F2N3O3S
